US09169254B2
Potassium tert-butoxide (236 mg, 2.1 mmol) was added to a solution of 5-bromo-2-fluorobenzotrifluoride (485 mg, 2.0 mmol) and 2-trifluoromethyl-2-propanol (0.24 mL, 2.2 mmol) in DMI (0.5 mL) at room temperature, and the mixture was stirred at 100° C. for two hours. The reaction solution was purified by silica gel column chromatography to give 4-bromo-1-(2,2,2-trifluoro-1,1-dimethyl-ethoxy)-2-trifluoromethyl-benzene (349 mg, 50%).

reactant | Potassium tert-butoxide | 2.1 mmol, 236 mg | CC(C)([O-])C.[K+]
reactant | 5-bromo-2-fluorobenzotrifluoride | 2.0 mmol, 485 mg | BrC=1C=CC(=C(C1)C(F)(F)F)F | C7H3BrF4
reactant | 2-trifluoromethyl-2-propanol | 2.2 mmol, 0.24 mL | FC(C(C)(C)O)(F)F | C4H7F3O
solvent | DMI | 0.5 mL | CN1CCN(C1=O)C | C5H10N2O
product | 4-bromo-1-(2,2,2-trifluoro-1,1-dimethyl-ethoxy)-2-trifluoromethyl-benzene | 349 mg, 50% | BrC1=CC(=C(C=C1)OC(C(F)(F)F)(C)C)C(F)(F)F | C11H9BrF6O
